US08735399B2
A mixture of 1-phenyl-2-(pyridin-4-yl)ethanamine (0.23 g, 1.18 mmol), and 4,5-dihydro-1H-imidazole-2-sulfonic acid (0.18 g, 1.16 mmol) in 2-butanol (5 mL), water (1 mL) were heated at 110° C. for 3 hours. The solution was cooled to room temperature. The solvents were removed under vacuum. The residue was dissolved in methanol, and added amino modified silica gel. The solvent was removed under vacuum. Purification by chromatography on amino modified silica gel (100% ethyl acetate to 7% methanol in dichloromethane) gave N-(imidazolidin-2-ylidene)-1-phenyl-2-(pyridin-4-yl)ethanamine Compound 3 as a while solid (0.21 g, 0.80 mmol, 67% yield).

reactant | 1-phenyl-2-(pyridin-4-yl)ethanamine | 1.18 mmol, 0.23 g | C1(=CC=CC=C1)C(CC1=CC=NC=C1)N | C13H14N2
reactant | 4,5-dihydro-1H-imidazole-2-sulfonic acid | 1.16 mmol, 0.18 g | N1C(=NCC1)S(=O)(=O)O | C3H6N2O3S
solvent | 2-butanol | 5 mL | CC(CC)O | C4H10O
solvent | water | 1 mL | O | H2O
product | N-(imidazolidin-2-ylidene)-1-phenyl-2-(pyridin-4-yl)ethanamine | N1C(NCC1)=NC(CC1=CC=NC=C1)C1=CC=CC=C1 | C16H18N4
